US07598412B2
Benzofuran-2-carboxylic acid [1-(3,4,5-trimethoxy-phenyl)-cyclopentylmethyl]-amide
C-[1-(3,4,5-Trimethoxy-phenyl)-cyclopentyl]-methylamine (53.1 mg, 0.200 mmol) and benzofuran-2-carbonyl chloride (36.1 mg, 0.200 mmol) were dissolved in 2 mL of 1,4-dioxane containing triethylamine (84 μL, 0.60 mmol). The reaction mixture was stirred for 15 hours, evaporated to dryness, and purified by reverse phase preparative liquid chromatography to yield the pure product (9.59 mg, 0.0234 mmol, 11.7%). ESI-MS m/z calc. 409.2, found 410.4 (M+1)+. Retention time of 3.29 minutes.

reactant | C-[1-(3,4,5-Trimethoxy-phenyl)-cyclopentyl]-methylamine | 0.200 mmol, 53.1 mg | COC=1C=C(C=C(C1OC)OC)C1(CCCC1)CN | C15H23NO3
reactant | benzofuran-2-carbonyl chloride | 0.200 mmol, 36.1 mg | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 0.60 mmol, 84 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Benzofuran-2-carboxylic acid [1-(3,4,5-trimethoxy-phenyl)-cyclopentylmethyl]-amide | 0.0234 mmol, 9.59 mg, 11.7% | COC=1C=C(C=C(C1OC)OC)C1(CCCC1)CNC(=O)C=1OC2=C(C1)C=CC=C2 | C24H27NO5
